US08735387B2
3-(5-Morpholin-4-ylmethyl-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl)-phenol
1.25 ml of a 1 M solution of boron tribromide in dichloromethane were slowly added to a solution of 160 mg of 2-(3-methoxy-phenyl)-5-morpholin-4-ylmethyl-7-propoxy-oxazolo[5,4-d]pyrimidine in 5 ml of dichloromethane at 0° C. The reaction mixture was stirred at 0° C. for 2 h and at room temperature for 1 h. The mixture was cautiously neutralized with a saturated solution of sodium hydrogencarbonate. The organic layer was separated and the aqueous layer extracted two times with dichloromethane. The combined organic layers were dried with sodium sulfate, filtered and evaporated in vacuo. The residue was purified by preparative HPLC (method HPLC1) to give 23 mg of the title compound in the form of 3-(5-morpholin-4-ylmethyl-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl)phenol trifluoroacetic acid salt.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 2-(3-methoxy-phenyl)-5-morpholin-4-ylmethyl-7-propoxy-oxazolo[5,4-d]pyrimidine | 160 mg | COC=1C=C(C=CC1)C=1OC=2N=C(N=C(C2N1)OCCC)CN1CCOCC1 | C20H24N4O4
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-(5-Morpholin-4-ylmethyl-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl)-phenol | 23 mg | N1(CCOCC1)CC=1N=C(C2=C(N1)OC(=N2)C=2C=C(C=CC2)O)OCCC | C19H22N4O4
